US04831055
Methyl 4-[2-(4-tert-butylbenzamido)ethoxy]benzoate
p-tert-Butylbenzoic acid (5.35 g) and 3.34 g of triethylamine were dissolved in 70 ml of chloroform and 3.26 g of ethyl chloroformate was dropped into the above mixture with stirring and cooling at 0° to 5° C. After the dropping, the mixture was stirred at the same temperature for 30 minutes and, after addition of 5.86 g of methyl 4-(2-aminoethoxy)benzoate thereto, the mixture was stirred for 6 hours more. The reaction solution was washed with 10% hydrochloric acid, saturated potassium carbonate solution, and water, dried with anhydrous magnesium sulpahte, concentrated in vacuo, and the residue was crystallised with n-hexane to give 9.8 g of crystals which were further recrystallised from ethyl acetate to give 7.64 g (yield: 71.65%) of the product, m.p. 112°-114° C.

reactant | p-tert-Butylbenzoic acid | 5.35 g | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | triethylamine | 3.34 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.26 g | ClC(=O)OCC | C3H5ClO2
reactant | methyl 4-(2-aminoethoxy)benzoate | 5.86 g | NCCOC1=CC=C(C(=O)OC)C=C1 | C10H13NO3
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-[2-(4-tert-butylbenzamido)ethoxy]benzoate | 9.8 g | C(C)(C)(C)C1=CC=C(C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C21H25NO4
